US04122179
Vincamine acetylsalicylate
A solution of 3.6 g (2.10-` moles) of acetylsalicylic acid in 30 mls of ethanol is added to a solution of 7.08 g (2.10-2 moles) of vincamine in 80 mls of ethanol and 60 mls of CHCl3. The mixture is maintained under stirring at 70° C. for 10 minutes and then concentrated to 60 mls. The residue is taken with ethanol (70 mls) and the solvent is evaporated to a final volume of 15 mls.

reactant | acetylsalicylic acid | 3.6 g | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | vincamine | 2.10-2 moles, 7.08 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3 | C21H26N2O3
solvent | ethanol | 30 mls | C(C)O | C2H6O
solvent | ethanol | 80 mls | C(C)O | C2H6O
solvent | CHCl3 | 60 mls | C(Cl)(Cl)Cl | CHCl3
product | Vincamine acetylsalicylate | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3.C(C)(=O)OC=1C(C(=O)[O-])=CC=CC1 | InChI=1S/C21H26N2O3.C9H8O4/c1-3-20-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(17(15)18(20)22)21(25,13-20)19(24)26-2;1-6(10)13-8-5-3-2-4-7(8)9(11)12/h4-5,7-8,18,25H,3,6,9-13H2,1-2H3;2-5H,1H3,(H,11,12)/p-1/t18-,20+,21+;/m1./s1
